US05256675
A mixture of 2-acetylamino-5-(2-methyl-1,3,4-thiadiazol-5-ylthio)thiazole (3.3 g) in a mixture of ethanol (70 ml), tetrahydrofuran (50 ml) and aqueous 6N-hydrochloric acid (200 ml) was refluxed for 6.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8.5 using aqueous sodium bicarbonate and extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1). The organic layer was washed with aqueous saturated sodium chloride and dried over magnesium sulfate. The organic solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 150 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-amino-5-(2-methyl-1,3,4-thiadiazol-5-ylthio)thiazole (0.85 g, Yield: 58.2%). mp: 203°-205° C. (dec.)

reactant | 2-acetylamino-5-(2-methyl-1,3,4-thiadiazol-5-ylthio)thiazole | 3.3 g | C(C)(=O)NC=1SC(=CN1)SC1=NN=C(S1)C | C8H8N4OS3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-amino-5-(2-methyl-1,3,4-thiadiazol-5-ylthio)thiazole | 0.85 g, Yield: 58.2% | NC=1SC(=CN1)SC1=NN=C(S1)C | C6H6N4S3
